US08383932B2
Synthesis of 2-(3,5-dibromophenyl)benzo[d]oxazole
10 g (37.9 mmol) of 3,5-dibromobenzaldehyde and 5 g (45.5 mmol) of 2-aminophenol were dissolved in 200 mL of acetic acid. The solution was agitated at room temperature for 30 minutes. Next, 20.2 g (45.5 mmol) of lead (IV) acetate was added thereto. The resulting product was agitated at 50° C. for 1 hour. Then, water was added to the acquired reactant. The mixture was extracted with ethyl acetate and treated under reduced pressure to remove the solvent, obtaining 5.7 g (Y=42%) of a white solid.

reactant | 3,5-dibromobenzaldehyde | 37.9 mmol, 10 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | 2-aminophenol | 45.5 mmol, 5 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | lead (IV) acetate | 45.5 mmol, 20.2 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | water | O | H2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 2-(3,5-dibromophenyl)benzo[d]oxazole | BrC=1C=C(C=C(C1)Br)C=1OC2=C(N1)C=CC=C2 | C13H7Br2NO
